US06933311B2
N-(3,4-dichlorobenzyl)-N′-(1-methyl-1H-indazol-4-yl)urea
1-Methyl-1H-indazol-4-amine (390 mg, 2.65 mmol) and 3,4-dichlorobenzyl isocyanate (0.39 mL, 2.65 mmol) were combined in toluene (20 mL) and heated overnight at 80° C. The mixture was allowed to cool to ambient temperature, filtered, and the filter cake was allowed to air-dry to provide the title compound. The corresponding hydrochloride salt was prepared by treatment with methanolic HCl. 1H NMR (300 MHz, d6-DMSO) δ 8.86 (s, 1H), 8.06 (d, J=1.0 Hz, 1H), 7.59-7.64 (m, 3H), 7.33 (m, 1H), 7.25 (m, 1H), 7.15 (m, 1H), 6.91 (t, J=6.0 Hz), 4.35 (d, J=5.8 Hz, 2H), 3.99 (s, 3H); MS (ESI+) m/z 349/351 (M+H, 35Cl/37Cl)+.

reactant | 1-Methyl-1H-indazol-4-amine | 2.65 mmol, 390 mg | CN1N=CC=2C(=CC=CC12)N | C8H9N3
reactant | 3,4-dichlorobenzyl isocyanate | 2.65 mmol, 0.39 mL | ClC=1C=C(CN=C=O)C=CC1Cl | C8H5Cl2NO
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | N-(3,4-dichlorobenzyl)-N′-(1-methyl-1H-indazol-4-yl)urea | ClC=1C=C(CNC(=O)NC2=C3C=NN(C3=CC=C2)C)C=CC1Cl | C16H14Cl2N4O
